Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y.o. female with PMHx HTN, hypercholesteremia, anxiety,
and osteoporosis, presenting with shortness of breath, racing
heart, and right-sided chest pain.
 
Three weeks ago patient reports developing malaise, cough, and 4
nights of drenching night sweats, febrile to ___, HA, and
dizziness associated with poor oral intake. She saw her PCP
office on ___, who thought her symptoms were consistent with
influenza. Her symptoms then improved, though she reports mild
SOB. 
 
The patient reports 1 week prior to presentation, she 
experienced
a sharp pain in her chest. Three days prior to presentation, the
patient reported that there was a return in her cough as well as
severe R chest pain over the R lower ribs "like someone shooting
me with a taser," radiating to her R back. The pain is worse 
when
lying flat. 
 
Past Medical History:
HYPERTENSION
ANXIETY   
OSTEOPOROSIS   
HYPERCHOLESTEROLEMIA   
GLAUCOMA   
ACTINIC KERATOSIS   
CHALAZION   
H/O SHINGLES 
HIP REPLACEMENT ___ 
HYSTERECTOMY ___ 
OOPHORECTOMY ___ 
BREAST IMPLANTS ___
 
Social History:
___
Family History:
Notable only for a maternal grandmother who died of a stroke. 
 
Physical Exam:
ADMISSION EXAM
===========================
VITALS: 98.1 ___ 20 96% ON RA
GENERAL: Alert and interactive. In no acute distress.
HEENT: Normocephalic, atraumatic. PERRRLA Sclera anicteric and
without injection. Moist mucous membranes, good dentition.
Oropharynx is clear.
CARDIAC: RRR, no m/r/g
LUNGS: CTAB, no wheezes, rhonchi or rales
BACK: No spinous process tenderness. No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: no ___ edema, symmetric
SKIN: no rashes appreciated
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.
 
DISCHARGE EXAM
===========================
Vitals: Temp: 99.1 PO BP: 119/59 Sitting HR: 61 RR: 18 O2 sat:
93% O2 delivery: Ra 
GENERAL: Older appearing woman in no acute distress. 
Comfortable.
AAOx3.
HEENT: Normocephalic, atraumatic. EOMI. MMM.
CARDIAC: Regular rate & rhythm. Normal S1/S2. No murmurs, rubs,
or gallops.
PULMONARY: Clear to auscultation bilaterally. Breathing
comfortably on room air though has right lower chest pain with
deep inspiration.
ABDOMEN: Soft, non-tender, non-distended.
EXTREMITIES: Warm, well perfused, non-edematous. 
SKIN: No significant rashes.
 
Pertinent Results:
ADMISSION LABS
===========================
___ 03:50PM BLOOD WBC-12.1* RBC-4.38 Hgb-12.6 Hct-38.5 
MCV-88 MCH-28.8 MCHC-32.7 RDW-14.2 RDWSD-45.9 Plt ___
___ 03:50PM BLOOD Neuts-59 Bands-1 ___ Monos-4* Eos-0 
Baso-0 Atyps-1* ___ Myelos-0 AbsNeut-7.26* AbsLymp-4.36* 
AbsMono-0.48 AbsEos-0.00* AbsBaso-0.00*
___ 03:50PM BLOOD ___ PTT-27.6 ___
___ 03:50PM BLOOD Glucose-126* UreaN-13 Creat-0.8 Na-136 
K-4.1 Cl-96 HCO3-24 AnGap-16
___ 03:50PM BLOOD ALT-36 AST-30 AlkPhos-137* TotBili-0.7
___ 03:50PM BLOOD cTropnT-<0.01 proBNP-400*
___ 03:50PM BLOOD Albumin-4.0 Calcium-8.8 Phos-2.7 Mg-2.2
___ 03:50PM BLOOD D-Dimer-2839*
___ 03:50PM URINE Color-Yellow Appear-Clear Sp ___
___ 03:50PM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-SM*
___ 03:50PM URINE RBC-2 WBC-3 Bacteri-FEW* Yeast-NONE 
Epi-<1
___ 04:30PM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
 
PERTINENT LABS
===========================
___ 06:45AM BLOOD ALT-60* AST-54* AlkPhos-163* TotBili-0.6
___ 06:55AM BLOOD ALT-59* AST-68* AlkPhos-140* TotBili-0.6
___ 03:50PM BLOOD ALT-36 AST-30 AlkPhos-137* TotBili-0.7
___ 03:50PM BLOOD cTropnT-<0.01 proBNP-400*
___ 03:50PM BLOOD D-Dimer-2839*
 
DISCHARGE LABS
===========================
___ 06:45AM BLOOD WBC-8.1 RBC-3.97 Hgb-11.3 Hct-34.3 MCV-86 
MCH-28.5 MCHC-32.9 RDW-14.1 RDWSD-44.8 Plt ___
___ 06:45AM BLOOD Glucose-96 UreaN-12 Creat-0.7 Na-138 
K-4.6 Cl-103 HCO3-24 AnGap-11
___ 06:45AM BLOOD ALT-60* AST-54* AlkPhos-163* TotBili-0.6
___ 06:45AM BLOOD Calcium-8.6 Phos-3.5 Mg-2.3
 
PERTINENT STUDIES
===========================
RUQUS (___)
1. No cholelithiasis.  No acute right upper quadrant pathology 
to explain
patient's abdominal pain.
2. Hepatic cysts incidentally noted.
3. 1.4 cm simple cyst in the left lower pole.
 
CTA CHEST (___)
1. Acute pulmonary embolism extending from the lobar level to 
the segmental
and subsegmental levels bilaterally.  Right lower lobe focal 
consolidation,
worrisome for pulmonary infarct.  Prominence of the right 
ventricle possible
straightening of the interventricular septum concerning for 
possible right
heart strain, consider ECHO for further evaluation.
2. 4 mm pulmonary nodule in the right apex, see below for 
___ criteria.
3. Trace right pleural effusion.
 
LOWER EXTREMITY DUPLEX US (___)
No evidence of deep venous thrombosis in the right or left lower 
extremity
veins.
 
ECHO (___)
IMPRESSION: Suboptimal image quality. Normal right ventricular 
cavity size and systolic function. Normal left ventricular wall 
thickness, cavity size, and regional/global systolic function. 
No definite pathologic valvular flow identified. 
 
PERTINENT MICRO
===========================
__________________________________________________________
___ 5:00 pm BLOOD CULTURE
   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 3:50 pm BLOOD CULTURE
   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 3:22 pm URINE      Source: ___. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
__________________________________________________________
___ 3:50 pm URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
 
Brief Hospital Course:
___ woman with PMHx notable for HTN, HLD, anxiety, and 
osteoporosis was admitted for acute bilateral segmental and 
subsegmental pulmonary embolism without evidence of right heart 
strain or hemodynamic instability. 
 
# ACUTE PULMONARY EMBOLISM
Initially presented for symptoms of dyspnea and chest pain x1 
week. Upon arrival underwent CTA which demonstrated acute 
thromboembolism of bilateral segmental and subsegmental vessels. 
Cardiac enzymes were negative. Started on heparin IV for 
anti-coagulation and admitted to medicine for further 
management. Formal TTE demonstrated no evidence of right heart 
strain and she remained hemodynamically stable for duration of 
admission. Course notable for intermittent right lower rib pain 
associated with deep inspiration, most likely due to pulmonary 
parenchymal infarction. Transitioned to rivaroxaban with plan to 
complete minimum 3 months of anti-coagulation. No known personal 
or family history of venous thromboembolism. Otherwise seemingly 
unprovoked though patient does note recent constipation and is 
not currently up-to-date on routine cancer screening. Strongly 
advise outpatient colonoscopy as patient noted recent change in 
stool pattern / increased constipation (in addition to other 
age-approrpriate screening) to ensure there is no occult 
malignancy leading to acute PE.
 
# HYPERTENSION
Stable. Resumed home amlodipine following reassuring TTE.
 
# HYPERCHOLESTEROLEMIA
Lipid panel obtained with calculated ___ risk for 
cardiovascular events (ASCVD) of >19%. Recommend outpatient 
consideration for aspirin / statin. 
 
TRANSITIONAL ISSUES
=================================
 
[ ] STRONGLY recommend outpatient colonoscopy (in addition to 
other age-approrpriate screening) to ensure there is no occult 
malignancy leading to acute pulmonary embolism. Patient reported 
recent change in stool pattern (more constipation, decreased 
stool caliber) and scant blood during hospitalization (though 
was noted to have small anal fissure). 
 
[ ] Consider starting aspirin and high-dose statin given high 
___ risk for cardiovascular events (ASCVD) of >19%.
 
[ ] Incidentally noted to have mildly elevated LFTs: ALT 60, AST 
54, AP 163. Please repeat as outpatient to ensure normalized or 
otherwise consider further workup.
 
[ ] Incidental finding on CTA: 4 mm pulmonary nodule in the 
right apex. For incidentally detected single solid pulmonary 
nodule smaller than 6 mm, no CT follow-up is recommended in a 
low-risk patient, and an optional CT in 12 months is recommended 
in a high-risk patient.
 
[ ] ___ Last day of BID dosing of Rivaroxaban, after that 
switch to once daily
  
#CONTACT: ___ (son: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Rivaroxaban 15 mg PO BID 
RX *rivaroxaban [___] 15 mg (42)- 20 mg (9) 1 tablets(s) by 
mouth as directed (twice or once daily) Disp #*1 Dose Pack 
Refills:*0 
3.  amLODIPine 5 mg PO DAILY  
4.  Multivitamins 1 TAB PO DAILY  
5.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
acute bilateral segmental / subsegmental pulmonary embolism

SECONDARY DIAGNOSES:
constipation
hypertension
hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___.

Why you were in the hospital:
- shortness of breath
- chest pain

What was done for you in the hospital:
- You had a CT scan of your chest that showed a blood clot in 
your lungs (pulmonary embolism)
- You were started on an IV blood thinner (heparin) to help your 
body break up the clot
- You were started on an oral medication (rivaroxaban) which you 
should continue taking after discharge to treat the blood clot
- You had an echocardiogram that showed your heart was pumping 
well even after this blood clot occurred

What you should do after you leave the hospital:
- Please take your medications as detailed in the discharge 
papers. If you have questions about which medications to take, 
please contact your regular doctor to discuss.
- Please go to your follow up appointments as scheduled in the 
discharge papers. Most of them already have a specific date & 
time set. If there is no specific time specified, and you do not 
hear from their office in ___ business days, please contact the 
office to schedule an appointment.
- Please monitor for worsening symptoms. If you do not feel like 
you are getting better or have any other concerns, please call 
your doctor to discuss or return to the emergency room.

We wish you the best!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___